US07910740B2
[3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-{4-methyl-5-[3-(1,1,2,2-tetrafluoro-ethoxy)-benzyl]-thiazol-2-yl}-amine
The title compound was prepared in analogy to example 1 step e) from crude 2-chloro-1-(3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl)-butan-3-one and 53 mg (0.2 mmol) [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea in ethanol (1 ml). The crude product was purified on silica gel with methylene chloride/methanol 9/1 yielding 98 mg (96%) of the title compound as a brown solid. MS ISP (m/e): 507.3 (100) (M+H)+. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.63 (s, 1H), 7.31 (t, 1H), 7.20 (s, 1H), 7.15-7.04 (m, 4H), 6.88 (d, 1H), 6.85 (s, 1H), 6.08-5.38 (tt, 1H), 3.99 (s, 2H), 3.81 (s, 3H), 2.28 (s, 6H).

reactant | 2-chloro-1-(3-(1,1,2,2-tetrafluoro-ethoxy)-phenyl)-butan-3-one | ClC(CC1=CC(=CC=C1)OC(C(F)F)(F)F)C(C)=O | C12H11ClF4O2
reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.2 mmol, 53 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-{4-methyl-5-[3-(1,1,2,2-tetrafluoro-ethoxy)-benzyl]-thiazol-2-yl}-amine | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC(=C(N1)C)CC1=CC(=CC=C1)OC(C(F)F)(F)F | C24H22F4N4O2S
